2126-05-08 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pain control with PO dilaudid
   - started ABX (vanc/[**Last Name (un) 430**]) given past sputum Cx
   - Occasional desaturation at night to 80s.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-7**] 08:30 PM
   Meropenem - [**2126-5-8**] 05:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-8**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 82 (79 - 122) bpm
   BP: 108/68(78) {95/15(37) - 128/82(92)} mmHg
   RR: 18 (14 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,080 mL
                                                                    347 mL
   PO:
                                                                    740 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    460 mL
   Urine:
                                                                    630 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    450 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: 7.26/81.[**Numeric Identifier 253**]/81.[**Numeric Identifier 607**]/37/6
   PaO2 / FiO2: 203
   Physical Examination
   General: moderate respiratory distress.
   Pulmonary: Markedly kyphotic, +rhonchi, less wheezes today,  with
   mildly prolonged expiratory phase.  Poor air movement throughout.
   Decreased at bases. No crackles, no appreciable egophany.
   Cardiac: Tachycardic, regular
   Abdomen: Protuberant. + BS. No rebound or guarding. Mild distention.
   Bowel sounds present.
   Extremities: R>L pitting edema to knee, RLE with pretibial erythema,
   not warm, non-blanching, improves with elevation.
   Labs / Radiology
   285 K/uL
   12.1 g/dL
   102 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.2 mEq/L
   12 mg/dL
   98 mEq/L
   143 mEq/L
   40.2 %
   6.1 K/uL
        [image002.jpg]
                             [**2126-5-7**]  06:53 PM
                             [**2126-5-7**]  08:13 PM
                             [**2126-5-8**]  12:45 AM
                             [**2126-5-8**]  03:02 AM
   WBC
   6.1
   Hct
   40.2
   Plt
   285
   Cr
   0.7
   TropT
   <0.01
   0.01
   TCO2
   40
   39
   Glucose
   102
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:12.0 %, Eos:0.0 %, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   53M with complicated pulmonary history including COPD, tracheomalacia,
   diaphragmatic paralysis and chronic RLL collapse presenting with 3 days
   worsening respiratory distress.
   .
   .
   # Respiratory distress: Treating for presumed pneumonia with COPD
   flare.  He maintained his oxygen saturation overnight however in the
   morning may have been having some episodes of desatting.  He does
   appear to have some volume overload but it is not clear if he is having
   fluid build up in his lungs.  This is more likely mucous plugging with
   some collapse in the setting of PNA and COPD.
   -F/u PA/Lat and lateral decubitus films
   -Broad coverage antibiotics given pt's history of MRSA and MDR
   pseudomonas in sputum, meropenem and vancomycin
   -High dose corticosteroids
   -standing and prn nebulizers, consider saline nebs to loosen
   secretions.
   -Aggressive incentive spirometry, pt's severe pain and brittle
   osteoporosis prohibit chest PT.
   -Q1 suctioning
   -F/u sputum and blood cultures
   -To consider changing trach to trach with cuff to start patient on
   pressure support.
   .
   # LE erythema: Appears to be chronic, and per patient has worsened with
   need to sit up to sleep with leg dangling. On exam erythema is not
   warm, tender or blanching.
   -leg elevation. Will consider compression stockings.
   -do not feel this is cellulitis based on exam, however is on vanc for
   PNA so should cover regardless.
   .
   # LE edema: Unclear etiology, TTE from [**2124**] without significant RV or
   LV failure. [**Month (only) 60**] be dependent edema/venous insufficency, new RV failure
   in setting of probably increased pulmonary hypertension, new LV failure
   due to recent cardiac event (although would expect higher BNP), DVT.
   Will consider further workup if not improving on ABX.  Next step would
   be LENI
   -TTE in am
   -hold off on further diuresis given likely infectious process, pt does
   not otherwise look overloaded.
   -leg elevation.
   .
   # Elevated cardiac enzymes: Appears to be demand as mentioned above.
   He received aspirin and CE were not increasing.
   -Continue aspirin and monitor for changes
   .
   # DM:
   -FSBS, diabetic diet, HISS
   .
   # Osteoporosis:
   -Calcium, vitamin D
   .
   # FEN/Lytes: Cardiac, diabetic diet, replete lytes prn, bolus prn for
   hypotension, low UOP.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-5-7**] 05:05 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending improvment in O2 requirement.

2126-05-08 09:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress--Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Patient with continued support with supplemental oxygen only.
   Able to complete PA/Lat CXR without event
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Meropenem - [**2126-5-8**] 05:50 AM
   Vancomycin - [**2126-5-8**] 08:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Dyspnea, Tachypnea
   Flowsheet Data as of  [**2126-5-8**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.8
C (96.4
   HR: 105 (79 - 122) bpm
   BP: 113/71(80) {95/15(37) - 128/82(92)} mmHg
   RR: 19 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,080 mL
                                                                    794 mL
   PO:
                                                                    740 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    460 mL
   Urine:
                                                                    630 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    450 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.26/81.[**Numeric Identifier 253**]/81.[**Numeric Identifier 607**]/37/6
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent, Unchanged erythema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   285 K/uL
   102 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.2 mEq/L
   12 mg/dL
   98 mEq/L
   143 mEq/L
   40.2 %
   6.1 K/uL
        [image002.jpg]
                             [**2126-5-7**]  06:53 PM
                             [**2126-5-7**]  08:13 PM
                             [**2126-5-8**]  12:45 AM
                             [**2126-5-8**]  03:02 AM
   WBC
   6.1
   Hct
   40.2
   Plt
   285
   Cr
   0.7
   TropT
   <0.01
   0.01
   TCO2
   40
   39
   Glucose
   102
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:12.0 %, Eos:0.0 %, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.8 mg/dL
   Imaging: CXR--Some improvement in RLL distribution aeration--no obvious
   focal PNA on lateral film
   Assessment and Plan
   53 yo male with severe COPD admitted with worsening secretion volume
   and mult-segmental collapse contributing to rapid worsening of
   oxygenation and persistent respiratory distress  had persisted at
   home.  He now has had persistent compromise in capacity to clear
   secretions with pain and discomfort largely attributable to back pain.
   He has been supported with conservative measures of incetive
   spirometry, OOB to chair, empiric ABX and steroid dose increase.
   Respiratory Failure
Again, secondary to underlying lung disease and
   recurrent and intermittent collapse of lower lobe segements
this has
   been somewhat dynamic but continued present.
   -MIE trial today via trach
   -Continue Prednisone and Atrovent/Albuterol
   -Continue with empiric ABX-_Vanco/Meropenem
   -Wean O2 as tolerated
   -Continue Bactrim prophylaxis
   -Will follow up sputum results
   -Need for ventilatory support discussed extensively with patient and
   currently will manage with non-cuff trach and attempted use of the MIE
   today
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-5-8**] 06:45 AM
   Prophylaxis:
   DVT:  OOB to chair
   Stress ulcer: po diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2126-05-09 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - restarted home Lasix 20 mg [**Hospital1 **]
   - pain control: MS Contin 30 q12h + morphine 15 q4h prn
   - sputum/blood culture: sputum contaminated; blood NGTD
   - continued vanc/meropenem (plan for 2-week course)
   - MIE trial: helped-- written for tid MIE
   - TTE: LVEF>55%; moderate pulmonary artery systolic htn; no valve
   abnormalities
   - PICC line placed
   - Patient requesting solu-medrol as he thinks it works better than the
   prednisone.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-8**] 08:04 PM
   Meropenem - [**2126-5-9**] 05:56 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-9**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 120 (84 - 120) bpm
   BP: 178/65(96) {99/61(72) - 178/76(96)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,140 mL
                                                                    269 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                    940 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                      0 mL
   Urine:
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///40/
   Physical Examination
   General: moderate respiratory distress.
   Pulmonary: Markedly kyphotic, +rhonchi, +wheezes,  with mildly
   prolonged expiratory phase.  Poor breath sounds throughout. Decreased
   at bases. No crackles, no appreciable egophany.
   Cardiac: Tachycardic, regular
   Abdomen: Protuberant. + BS. No rebound or guarding. Mild distention.
   Bowel sounds present.
   Extremities: R>L pitting edema to knee, RLE with pretibial erythema,
   not warm, non-blanching, improves with elevation.
   Labs / Radiology
   315 K/uL
   11.8 g/dL
   126 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.2 mEq/L
   16 mg/dL
   101 mEq/L
   144 mEq/L
   40.0 %
   6.1 K/uL
        [image002.jpg]
   Echo:
   The left atrium is normal in size. No atrial septal defect is seen by
   2D or color Doppler. Left ventricular wall thickness, cavity size, and
   global systolic function are normal (LVEF>55%). Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. There is no ventricular septal defect. with normal free wall
   contractility. There is abnormal septal motion/position. The aortic
   valve leaflets (3) appear structurally normal with good leaflet
   excursion and no aortic regurgitation. The mitral valve appears
   structurally normal with trivial mitral regurgitation. There is
   moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   Compared with the prior study (images reviewed) of [**2124-6-9**], there is
   now moderate pulmonary hypertension detected.
                             [**2126-5-7**]  06:53 PM
                             [**2126-5-7**]  08:13 PM
                             [**2126-5-8**]  12:45 AM
                             [**2126-5-8**]  03:02 AM
                             [**2126-5-9**]  04:06 AM
   WBC
   6.1
   Hct
   40.2
   40.0
   Plt
   285
   315
   Cr
   0.7
   0.7
   TropT
   <0.01
   0.01
   TCO2
   40
   39
   Glucose
   102
   126
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:74.0 %, Band:3.0 %,
   Lymph:9.0 %, Mono:12.0 %, Eos:0.0 %, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   53M with complicated pulmonary history including COPD, tracheomalacia,
   diaphragmatic paralysis and chronic RLL collapse presenting with 3 days
   worsening respiratory distress.
   .
   # Respiratory distress: Treating for presumed bronchitis with COPD
   flare.  Patient with occasional desatts at night.  He does appear to
   have some volume overload but it is not clear if he is having fluid
   build up in his lungs.  This is more likely mucous plugging with some
   collapse in the setting of bronchitis and COPD.  PE on the differential
   however there are currently other reasons for respiratory distress and
   tachycardia.
   -Broad coverage antibiotics given pt's history of MRSA and MDR
   pseudomonas in sputum, meropenem and vancomycin
   -High dose corticosteroids, on Prednisone 60mg.
 will change to
   solumedrol per patient request
   -standing and prn nebulizers, consider saline nebs to loosen
   secretions.
   -Aggressive incentive spirometry, pt's severe pain and brittle
   osteoporosis prohibit chest PT.
   -Q1 suctioning
   -F/u sputum and blood cultures
   -Continue wuth MIE
   .
   # LE erythema: Appears to be chronic, and per patient has worsened with
   need to sit up to sleep with leg dangling. On exam erythema is not
   warm, tender or blanching.
   -leg elevation. Will consider compression stockings.
   -do not feel this is cellulitis based on exam, however is on vanc for
   PNA so should cover regardless.
   .
   # LE edema: Unclear etiology, TTE from [**2124**] without significant RV or
   LV failure. [**Month (only) 60**] be dependent edema/venous insufficency, new RV failure
   in setting of probably increased pulmonary hypertension, new LV failure
   due to recent cardiac event (although would expect higher BNP), DVT.
   Will consider further workup if not improving on ABX.  Next step would
   be LENI
   -TTE in am
   -hold off on further diuresis given likely infectious process, pt does
   not otherwise look overloaded.
   -leg elevation.
   .
   # Elevated cardiac enzymes: Appears to be demand as mentioned above.
   He received aspirin and CE were not increasing.
   -Continue aspirin and monitor for changes
   .
   # DM:
   -FSBS, diabetic diet, HISS
   .
   # Osteoporosis:
   -Calcium, vitamin D
   .
   # FEN/Lytes: Cardiac, diabetic diet, replete lytes prn, bolus prn for
   hypotension, low UOP.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-5-8**] 06:45 AM
   PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: With patient   Comments:
   Code status: Full code
   Disposition: Pending improvment of oxygenation.

2126-05-09 12:05:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   Respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MIE with some clearance of secretions
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2126-5-8**] 10:23 AM
 EKG - At [**2126-5-8**] 10:57 AM
 PICC LINE - START [**2126-5-8**] 03:05 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Meropenem - [**2126-5-9**] 05:56 AM
   Vancomycin - [**2126-5-9**] 08:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2126-5-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2126-5-9**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 106 (84 - 120) bpm
   BP: 110/72(80) {99/61(71) - 178/77(96)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,140 mL
                                                                    819 mL
   PO:
                                                                  1,200 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    519 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                      0 mL
   Urine:
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                    819 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///40/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   315 K/uL
   126 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.2 mEq/L
   16 mg/dL
   101 mEq/L
   144 mEq/L
   40.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2126-5-7**]  06:53 PM
                             [**2126-5-7**]  08:13 PM
                             [**2126-5-8**]  12:45 AM
                             [**2126-5-8**]  03:02 AM
                             [**2126-5-9**]  04:06 AM
   WBC
   6.1
   8.2
   Hct
   40.2
   40.0
   Plt
   285
   315
   Cr
   0.7
   0.7
   TropT
   <0.01
   0.01
   TCO2
   40
   39
   Glucose
   102
   126
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR--Mild improvement in basilar collapse noted
   ECHO--Mild PASP elevation suggested
   Assessment and Plan
   53 yo male with COPD and severe ventilatory compromise and admitted
   with worsening hypoxemia nd now with slow improvement in consolidations
   and some stabilization of his hypoxemia with use of conservative Rx of
   MIE and suctioning via trach.  He has had empiric ABX and systemic
   steroid dosing, with, again, slow improvement.
   1)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])-_This is secondary to
   underlying severe lung disease and now with intermittent collapse and
   actually some significant subjective improvement with supportive care
   and use of MIE with overall secretion volume showing limited change.
   -Continue with ABX for empiric course-Vanco/Meropenem
   -Continue with MIE TID and should be considered for home use as well
   given chronic incapacity to cough and clear secretions.
   -Continue with trach mask O2
   -Change to Solumedrol IV to continue
   -Continue with nebs
   --Will need continued ICU support.
 DIABETES MELLITUS (DM), TYPE II
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    impaired gas exchange
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-5-8**] 06:45 AM
   PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2126-05-10 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Changed trach to trach with cuff and started on vent overnight.
   - Increased lethargy ?overnarc -> d/c MS contin, held MSIR
   - ABG @ 1800 7.2/105/80 -> PS (FIO2 40%, [**10-14**], 18, 330)
   - ABG @ 10:30 7.27/98/65 -> A/C (FIO2 60%, PEEP 5, RR 20, Vt 400),
   given versed & fentanyl boluses to sedate
   - ?VBG @ 1:30 7.36/81/50. ABG @ 2:30 7.37/76/
   Patient lethargic but arousable, wants something to drink, no other
   complaints.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-9**] 08:00 PM
   Meropenem - [**2126-5-10**] 12:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2126-5-9**] 08:00 AM
   Midazolam (Versed) - [**2126-5-9**] 11:15 PM
   Fentanyl - [**2126-5-9**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-10**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 93 (89 - 118) bpm
   BP: 113/88(92) {85/57(63) - 130/88(216)} mmHg
   RR: 22 (10 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,340 mL
                                                                    169 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  1,040 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                      0 mL
   Urine:
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    390 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: 7.37/76/92/40/13
   Ve: 6.9 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General: mild  respiratory distress. On vent.
   Pulmonary: Markedly kyphotic, +rhonchi, +wheezes,  with mildly
   prolonged expiratory phase.  Poor breath sounds throughout. Decreased
   at bases. No crackles, no appreciable egophany.
   Cardiac: Tachycardic, regular
   Abdomen: Protuberant. + BS. No rebound or guarding. Mild distention.
   Bowel sounds present.
   Extremities: R>L pitting edema to knee, RLE with pretibial erythema,
   not warm, non-blanching.
   Labs / Radiology
   261 K/uL
   10.0 g/dL
   92 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.8 mEq/L
   18 mg/dL
   98 mEq/L
   145 mEq/L
   32.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2126-5-7**]  06:53 PM
                             [**2126-5-7**]  08:13 PM
                             [**2126-5-8**]  12:45 AM
                             [**2126-5-8**]  03:02 AM
                             [**2126-5-9**]  04:06 AM
                             [**2126-5-9**]  06:20 PM
                             [**2126-5-9**]  10:30 PM
                             [**2126-5-10**]  01:31 AM
                             [**2126-5-10**]  02:21 AM
                             [**2126-5-10**]  03:38 AM
   WBC
   6.1
   8.2
   8.4
   Hct
   40.2
   40.0
   32.6
   Plt
   285
   315
   261
   Cr
   0.7
   0.7
   0.5
   TropT
   <0.01
   0.01
   TCO2
   40
   39
   43
   47
   48
   46
   Glucose
   102
   126
   92
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:0.9 mg/dL
   Assessment and Plan
   53M with complicated pulmonary history including COPD, tracheomalacia,
   diaphragmatic paralysis and chronic RLL collapse presenting with 3 days
   worsening respiratory distress.
   .
   # Respiratory distress: Treating for presumed bronchitis with COPD
   flare.  He does appear to have some volume overload but it is not clear
   if he is having fluid build up in his lungs.  This is more likely
   mucous plugging with some collapse in the setting of bronchitis and
   COPD.  PE on the differential however there are currently other reasons
   for respiratory distress and tachycardia.  Patient started on vent
   overnight, respiratory was unable to get a RSBI as patient apneic.
   -Broad coverage antibiotics given pt's history of MRSA and MDR
   pseudomonas in sputum, meropenem and vancomycin
   -High dose corticosteroids, (solumedrol)
   -standing and prn nebulizers, consider saline nebs to loosen
   secretions.
   -Aggressive incentive spirometry, pt's severe pain and brittle
   osteoporosis prohibit chest PT.
   -Q1 suctioning
   -F/u sputum and blood cultures
   -Will try pressure support, then trach mask and continue with MIE
   .
   # LE erythema: Appears to be chronic, and per patient has worsened with
   need to sit up to sleep with leg dangling. On exam erythema is not
   warm, tender or blanching.
   -leg elevation. Will consider compression stockings.
   -do not feel this is cellulitis based on exam, however is on vanc for
   PNA so should cover regardless.
   .
   # LE edema: Unclear etiology, TTE from [**2124**] without significant RV or
   LV failure. [**Month (only) 60**] be dependent edema/venous insufficency, new RV failure
   in setting of probably increased pulmonary hypertension, new LV failure
   due to recent cardiac event (although would expect higher BNP), DVT.
   Will consider further workup if not improving on ABX.  Next step would
   be LENI
   -TTE in am
   -hold off on further diuresis given likely infectious process, pt does
   not otherwise look overloaded.
   -leg elevation.
   .
   # Elevated cardiac enzymes: Appears to be demand as mentioned above.
   He received aspirin and CE were not increasing.
   -Continue aspirin and monitor for changes
   .
   # DM:
   -FSBS, diabetic diet, HISS
   .
   # Osteoporosis:
   -Calcium, vitamin D
   .
   # FEN/Lytes: Cardiac, diabetic diet, replete lytes prn, bolus prn for
   hypotension, low UOP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-5-8**] 06:45 AM
   PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until oxygenation improves.

2126-05-10 11:28:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Trach changed to cuffed
   Supported on ventilator with ABG change to 7.36/81
   MSO4 held completely
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Meropenem - [**2126-5-10**] 12:00 AM
   Vancomycin - [**2126-5-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2126-5-9**] 11:15 PM
   Fentanyl - [**2126-5-9**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea, Rare
   Flowsheet Data as of  [**2126-5-10**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 100 (89 - 118) bpm
   BP: 112/75(84) {85/57(63) - 130/88(216)} mmHg
   RR: 21 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,340 mL
                                                                    796 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  1,040 mL
                                                                    796 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                      0 mL
   Urine:
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    390 mL
                                                                    796 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   SpO2: 96%
   ABG: 7.37/76.[**Numeric Identifier 128**]/92.[**Numeric Identifier 1176**]/40/13
   Ve: 6.9 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   261 K/uL
   92 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.8 mEq/L
   18 mg/dL
   98 mEq/L
   145 mEq/L
   32.6 %
   8.4 K/uL
        [image002.jpg]
                             [**2126-5-7**]  06:53 PM
                             [**2126-5-7**]  08:13 PM
                             [**2126-5-8**]  12:45 AM
                             [**2126-5-8**]  03:02 AM
                             [**2126-5-9**]  04:06 AM
                             [**2126-5-9**]  06:20 PM
                             [**2126-5-9**]  10:30 PM
                             [**2126-5-10**]  01:31 AM
                             [**2126-5-10**]  02:21 AM
                             [**2126-5-10**]  03:38 AM
   WBC
   6.1
   8.2
   8.4
   Hct
   40.2
   40.0
   32.6
   Plt
   285
   315
   261
   Cr
   0.7
   0.7
   0.5
   TropT
   <0.01
   0.01
   TCO2
   40
   39
   43
   47
   48
   46
   Glucose
   102
   126
   92
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:0.9 mg/dL
   Assessment and Plan
   53 yo male with severe COPD admitted with possible bronchial infection
   and with some mucus plugging suspected in the setting of elevated HD he
   has had persistent and significant hypercarbic respiratory failure
   which may have been exacerbated in the setting of sedating effects of
   narcotic medications required for control of back pain from severe
   compression Fx
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -Vanco/[**Last Name (un) **]
   -Methylpred 20mg IV q 8 hours
   -Will move to wean of ventilator today with trach mask trial given
   improved CO2 and 24 hours off of MSO4
   -With Cuffed trach will trial MIE today [**Hospital1 **]
   -PSV this morning
   Back Pain-
   -Will utilize lower doses
165 mg of MSO4 was clearly excessive during
   admission
   -NSAIDS as background
   -Ultram to consider
   -IV bolus narcotics only for significant pain
 DIABETES MELLITUS (DM), TYPE II
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    impaired gas exchange
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-5-8**] 06:45 AM
   PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2126-05-11 05:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   - tolerated pressure support and trach mask
   - ABG wnl for patient
   - pain control with percocet
   - unable to perform MIE [**2-11**] lethargy
   - this AM, c/o back pain at rest, also noted to have restless legs
   while lying in bed
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Meropenem - [**2126-5-10**] 06:24 PM
   Vancomycin - [**2126-5-11**] 12:33 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-11**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 67 (63 - 114) bpm
   BP: 133/76(90) {88/57(63) - 136/88(93)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,632 mL
                                                                    227 mL
   PO:
                                                                     75 mL
             TF:
   IVF:
                                                                  1,557 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    700 mL
   Urine:
                                                                    800 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    832 mL
                                                                   -474 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 322 (322 - 322) mL
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.36/74/74/38/11
   Ve: 8.6 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General: awake, alert and oriented. No acute distress. Speaking
   comfortably. Able to sit up for physical exam without significant
   discomfort.
   Pulmonary: diffuse coarse inspiratory sounds and expiratory wheezes in
   the posterior fields
   Cardiac: RRR, normal S1/S2
   Abdomen: soft and non-tender
   Extremities: trace pitting edema bilaterally with dependent rubor lower
   extremities (mid shins to ankles) that is unchanged
   Back: severe kyphosis
   Labs / Radiology
   285 K/uL
   11.2 g/dL
   113 mg/dL
   0.4 mg/dL
   38 mEq/L
   4.2 mEq/L
   19 mg/dL
   102 mEq/L
   148 mEq/L
   36.4 %
   8.9 K/uL
        [image002.jpg]
                             [**2126-5-8**]  12:45 AM
                             [**2126-5-8**]  03:02 AM
                             [**2126-5-9**]  04:06 AM
                             [**2126-5-9**]  06:20 PM
                             [**2126-5-9**]  10:30 PM
                             [**2126-5-10**]  01:31 AM
                             [**2126-5-10**]  02:21 AM
                             [**2126-5-10**]  03:38 AM
                             [**2126-5-10**]  10:20 PM
                             [**2126-5-11**]  04:01 AM
   WBC
   6.1
   8.2
   8.4
   8.9
   Hct
   40.2
   40.0
   32.6
   36.4
   Plt
   285
   315
   261
   285
   Cr
   0.7
   0.7
   0.5
   0.4
   TropT
   0.01
   TCO2
   39
   43
   47
   48
   46
   44
   Glucose
   102
   126
   92
   113
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   A 53 year-old man with complicated pulmonary history including COPD,
   tracheomalacia s/p tracheal stent (removed) and tracheostomy,
   diaphragmatic paralysis and chronic RLL collapse presenting with 3 days
   of worsening respiratory distress.
   # Respiratory distress: Treating for presumed bronchitis with COPD
   flare.  He does appear to have some volume overload but it is not clear
   if he is having fluid build-up in his lungs.  This is more likely
   mucous plugging with collapse in the setting of bronchitis and COPD.
   PE on the differential however there are currently other reasons for
   respiratory distress and tachycardia; moreover, his respiratory status
   has improved significantly after treatment with abx and
   steroids/bronchodilators.  Patient is satting well on trach mask but
   remains wheezy on exam.
   -continue broad coverage antibiotics given his h/o MRSA and MDR
   pseudomonas in sputum, meropenem and vancomycin x14d
   -continue high dose corticosteroids; will taper solumedrol from 20 mg
   q8h to 20 mg [**Hospital1 **] today
   -standing and prn nebulizers, consider saline nebs to loosen secretions
   -aggressive incentive spirometry
   -q1h suctioning
   -continue trach mask, repeat ABG in afternoon if clinicially indicated
   # Hypernatremia: slight hypernatremia to 148 (from 145) with no change
   in mental status. Likely secondary to poor po intake in setting of
   insensible losses from respiration/infection.
   -encourage free water intake
   # LE erythema and edema: Both appear to be chronic. On exam erythema is
   not warm, tender or blanching.  TTE showed normal EF with moderate
   pulmonary artery hypertension.
   -leg elevation.
   -do not feel this is cellulitis based on exam, however is on vanc for
   PNA so should cover regardless
   -continue outpatient Lasix
   # Diabetes mellitus
   -continue diabetic diet, HISS
   # Back pain: chronic, d/t compression fractures compounded by
   sedentary/bed-ridden status
   -encourage OOB to chair
   -continue morphine IR and Oxycodone prn
   -avoiding intravenous narcotics as patient is currently tolerating pos
   # Restless legs: reviewed rehab notes and patient was on Mirapex before
   this admission
   -will restart Mirapex today
   # Osteoporosis:
   -calcium, vitamin D
   -spoke w/ pharmacy, available on formulary are fosamax and Boniva, both
   orally dosed- patient can avoid esophagitis if he sits up for
   after taking pill (he is on Fosamax as outpatient)
   # FEN/Lytes: Cardiac, diabetic diet, replete lytes prn, bolus prn for
   hypotension, low UOP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: possible discharge to rehab tomorrow if respiratory status
   continues to improve
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 8911**]
 note and I agree
   with his findings and plan of care.  Mr [**Known lastname 6115**] had severe hypoxic
   and hypercarbic COPD, compounded by steroid induced osteoporosis and
   compression spine fractures requiring narcotics for pain relief.  He is
   improving from a COPD exacerbation caused by a lower respiratory tract
   infection, but pain relief that is too strong results in somnolence and
   the need for mechanical ventilation.  Our goal is to slowly taper
   steroids, continue aggressive nebs, continue broad spectrum
   antibiotics, and increase free water to reduce his hypenatremia and
   allow thinner secretions.  The patient appears to have disabling
   restless leg syndrome and we will re introduce his Mirapex.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2126-5-11**] 13:59 ------

2126-05-12 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [** 8925**] (re)started for restless legs
   - Tapered Solumedrol from 20 q8h to 15 q8h
   - No changes to pain meds: currently on percocet and morphine IR prn
   - Pt reports pain controlled when sitting in chair. Improved restless
   legs on [** 8925**]. Mild perirectal soreness [**2-11**] bowel movements.
   Otherwise slowly feeling better overall.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-11**] 07:40 PM
   Meropenem - [**2126-5-12**] 05:50 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2126-5-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-12**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 83 (63 - 116) bpm
   BP: 102/70(77) {97/49(63) - 130/84(92)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,007 mL
                                                                    272 mL
   PO:
             TF:
   IVF:
                                                                  1,007 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                    200 mL
   Urine:
                                                                  2,475 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,469 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 91%
   ABG: ///36/
   Physical Examination
   General: awake, alert and oriented. No acute distress. Speaking
   comfortably. Able to sit up for physical exam without significant
   discomfort.
   Pulmonary: Improved wheezes
 now end-expiratory
   Cardiac: RRR, normal S1/S2
   Abdomen: soft and non-tender
   Extremities: trace pitting edema bilaterally with dependent rubor lower
   extremities (mid shins to ankles) that is unchanged
   Back: severe kyphosis
   Labs / Radiology
   301 K/uL
   11.1 g/dL
   136 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.9 mEq/L
   17 mg/dL
   98 mEq/L
   143 mEq/L
   37.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2126-5-8**]  03:02 AM
                             [**2126-5-9**]  04:06 AM
                             [**2126-5-9**]  06:20 PM
                             [**2126-5-9**]  10:30 PM
                             [**2126-5-10**]  01:31 AM
                             [**2126-5-10**]  02:21 AM
                             [**2126-5-10**]  03:38 AM
                             [**2126-5-10**]  10:20 PM
                             [**2126-5-11**]  04:01 AM
                             [**2126-5-12**]  04:03 AM
   WBC
   6.1
   8.2
   8.4
   8.9
   9.3
   Hct
   40.2
   40.0
   32.6
   36.4
   37.2
   Plt
   285
   315
   261
   285
   301
   Cr
   0.7
   0.7
   0.5
   0.4
   0.5
   TropT
   0.01
   TCO2
   43
   47
   48
   46
   44
   Glucose
   102
   126
   92
   113
   136
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   A 53 year-old man with complicated pulmonary history including COPD,
   tracheomalacia s/p tracheal stent (removed) and tracheostomy,
   diaphragmatic paralysis and chronic RLL collapse presenting with 3 days
   of worsening respiratory distress.
   # Respiratory distress: Treating for presumed bronchitis with COPD
   flare.  Has volume overload but not thought to be significantly
   affecting resp function at this time. This is more likely mucous
   plugging with collapse in the setting of bronchitis and COPD; improving
   with steroids/bronchodilators and empiric abx.
   -Continue broad coverage antibiotics given his h/o MRSA and MDR
   pseudomonas in sputum, meropenem and vancomycin x8
   -Switch solumedrol to prednisone 60mg and cont taper as tolerated
   -Standing and prn nebulizers, consider saline nebs to loosen secretions
   -Aggressive incentive spirometry
   -Q1h suctioning
   -Continue trach mask
   # Back pain: chronic, d/t compression fractures compounded by
   sedentary/bed-ridden status
   -encourage OOB to chair
   -continue morphine IR and Oxycodone prn; avoid escalating dose as
   respiratory status worsens with increased sedation
   -avoiding intravenous narcotics as patient is currently tolerating pos
   # Restless legs: [**Hospital 4492**] rehab notes and patient was on [**Hospital 8925**] before
   this admission; restarted with subj improvement
   - Will continue [**Hospital 8925**] 0.25 qhs, consider adding 0.125 in afternoon if
   indicated
   # Hypernatremia: Sight hypernatremia yesterday with no change in mental
   status now resolved. Likely secondary to poor po intake in setting of
   insensible losses from respiration/infection.
   -encourage free water intake
   # LE erythema and edema: Both appear to be chronic. On exam erythema is
   not warm, tender or blanching.  TTE showed normal EF with moderate
   pulmonary artery hypertension.
   -leg elevation.
   -do not feel this is cellulitis based on exam, however is on vanc for
   PNA so should cover regardless
   -continue outpatient Lasix
   # Diabetes mellitus
   -continue diabetic diet, HISS
   # Osteoporosis:
   -calcium, vitamin D
   -Pt refusing fosamax [**2-11**] h/o esophagitis. Could consider outpatient tx
   with other meds not available on our formulary.  lmidronate not
   clinically indicated.
   # FEN/Lytes: Cardiac, diabetic diet, replete lytes prn, bolus prn for
   hypotension, low UOP
   ICU Care
   Nutrition: Regular diet (pt refusing [**Last Name (un) 1241**] diet)
   Glycemic Control:  SS
   Lines:  PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Currently being screened for placement; likely dc
   tomorrow.
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 8926**]
s note above and
   agree with her findings and plan of care.  Overall Mr [**Known lastname 6115**]
   continues to gradually improve from a respiratory standpoint. His pain
   control is also better, and restless legs less problem[**Name (NI) 1114**] on [**Name (NI) 8925**].
   We will reduce his steroid dose and change to po prednisone.  Plan is
   for an 8 day course of Meropenem and Vanco for pneumonia complicated by
   COPD flare.  He should be ready to return to rehab/chronic care setting
   by tomorrow.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2126-5-12**] 15:50 ------

2126-05-13 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Changed solumedrol to prednisone 40mg daily (to start [**5-13**])
   - Sputum cx neg, blood cx pending
   - No changes to pain or RLS meds
   Pt reports feeling chest tightness this am more so than last night, but
   overall feels much better than previously.  No chest pain.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-12**] 07:30 PM
   Meropenem - [**2126-5-13**] 06:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2126-5-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-13**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 79 (79 - 114) bpm
   BP: 104/64(73) {98/58(67) - 124/77(86)} mmHg
   RR: 18 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,056 mL
                                                                    180 mL
   PO:
                                                                  2,000 mL
                                                                     80 mL
   TF:
   IVF:
                                                                  1,056 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    260 mL
   Urine:
                                                                  2,255 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    801 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///48/
   Physical Examination
   General: awake, alert and oriented. No acute distress. Speaking
   comfortably. Able to sit up for physical exam without significant
   discomfort.
   Pulmonary: Wheezes, prolonged expiratory phase.
   Cardiac: RRR, normal S1/S2
   Abdomen: soft and non-tender
   Extremities: trace pitting edema bilaterally with dependent rubor lower
   extremities (mid shins to ankles) that is unchanged
   Back: severe kyphosis
   Labs / Radiology
   319 K/uL
   11.4 g/dL
   100 mg/dL
   0.5 mg/dL
   48 mEq/L
   3.5 mEq/L
   13 mg/dL
   94 mEq/L
   145 mEq/L
   38.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-5-9**]  04:06 AM
                             [**2126-5-9**]  06:20 PM
                             [**2126-5-9**]  10:30 PM
                             [**2126-5-10**]  01:31 AM
                             [**2126-5-10**]  02:21 AM
                             [**2126-5-10**]  03:38 AM
                             [**2126-5-10**]  10:20 PM
                             [**2126-5-11**]  04:01 AM
                             [**2126-5-12**]  04:03 AM
                             [**2126-5-13**]  04:17 AM
   WBC
   8.2
   8.4
   8.9
   9.3
   10.0
   Hct
   40.0
   32.6
   36.4
   37.2
   38.5
   Plt
   [**Telephone/Fax (3) 8940**]01
   319
   Cr
   0.7
   0.5
   0.4
   0.5
   0.5
   TCO2
   43
   47
   48
   46
   44
   Glucose
   126
   92
   113
   136
   100
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   A 53 year-old man with complicated pulmonary history including COPD,
   tracheomalacia s/p tracheal stent (removed) and tracheostomy,
   diaphragmatic paralysis and chronic RLL collapse presenting with 3 days
   of worsening respiratory distress.
   # Respiratory distress: Treating for presumed bronchitis with COPD
   flare.  Has volume overload but not thought to be significantly
   affecting resp function at this time. This is more likely mucous
   plugging with collapse in the setting of bronchitis and COPD; improving
   with steroids/bronchodilators and empiric abx.  Recent tightness is
   likely persistent COPD flare.  As it is new there is a concern for new
   pneumonia or flash edema.
   -Chest XR today.
   -Continue broad coverage antibiotics given his h/o MRSA and MDR
   pseudomonas in sputum, meropenem and vancomycin x8
   -Switch solumedrol to prednisone 60mg will taper when clinically
   improved.
   -Standing and prn nebulizers, will increase frequency.
   -Aggressive incentive spirometry
   -Diurese today as there may be component of fluid on lung.
   -Continue trach mask
   # Back pain: chronic, d/t compression fractures compounded by
   sedentary/bed-ridden status
   -encourage OOB to chair
   -continue morphine IR and Oxycodone prn; avoid escalating dose as
   respiratory status worsens with increased sedation
   -avoiding intravenous narcotics as patient is currently tolerating pos
   # Restless legs: [**Hospital 4492**] rehab notes and patient was on Mirapex before
   this admission; restarted with subj improvement
   - Will continue Mirapex 0.25 qhs, consider adding 0.125 in afternoon if
   indicated
   # Hypernatremia: Sight hypernatremia Which is now resolved.  Likely
   secondary to poor po intake in setting of insensible losses from
   respiration/infection.
   -encourage free water intake as needed.
   # LE erythema and edema: Both appear to be chronic. On exam erythema is
   not warm, tender or blanching.  TTE showed normal EF with moderate
   pulmonary artery hypertension.
   -leg elevation.
   -do not feel this is cellulitis based on exam, however is on vanc for
   PNA so should cover regardless
   -continue outpatient Lasix
   # Diabetes mellitus
   -continue diabetic diet, HISS
   # Osteoporosis:
   -calcium, vitamin D
   -Pt refusing fosamax [**2-11**] h/o esophagitis. Could consider outpatient tx
   with other meds not available on our formulary.  lmidronate not
   clinically indicated.
   # FEN/Lytes: Cardiac, diabetic diet, replete lytes prn, bolus prn for
   hypotension, low UOP
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Currently being screened for placement

2126-05-14 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   -cont meropenem/vanco (plan for 2-week course)
   -Patient refused to go on vent at night
   -Nebs were increased to q2
   -Chest XR was unchanged
   -ABG was around patients baseline: 7.42/74/77
   -still feels as though he is not back at his baseline in terms of
   respiratory status- feels wheezy and weak- would like to start back on
   Solumedrol as he feels he was weaned too fast
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-13**] 08:15 PM
   Meropenem - [**2126-5-14**] 12:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-5-13**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-14**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 85 (72 - 107) bpm
   BP: 96/65(72) {96/54(44) - 123/76(86)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,740 mL
                                                                    100 mL
   PO:
                                                                  1,040 mL
             TF:
   IVF:
                                                                    700 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,410 mL
                                                                      0 mL
   Urine:
                                                                  2,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -670 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.42/74/77/45/18
   PaO2 / FiO2: 193
   Physical Examination
   General: awake, alert and oriented. No acute distress. Speaking
   comfortably. Able to sit up for physical exam without significant
   discomfort.
   Pulmonary: Wheezes, prolonged expiratory phase.
   Cardiac: RRR, normal S1/S2
   Abdomen: soft and non-tender
   Extremities: trace pitting edema bilaterally with dependent rubor lower
   extremities (mid shins to ankles) that is unchanged
   Back: severe kyphosis
   Labs / Radiology
   334 K/uL
   11.6 g/dL
   95 mg/dL
   0.5 mg/dL
   45 mEq/L
   3.9 mEq/L
   12 mg/dL
   93 mEq/L
   142 mEq/L
   37.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2126-5-9**]  10:30 PM
                             [**2126-5-10**]  01:31 AM
                             [**2126-5-10**]  02:21 AM
                             [**2126-5-10**]  03:38 AM
                             [**2126-5-10**]  10:20 PM
                             [**2126-5-11**]  04:01 AM
                             [**2126-5-12**]  04:03 AM
                             [**2126-5-13**]  04:17 AM
                             [**2126-5-13**]  02:02 PM
                             [**2126-5-14**]  04:03 AM
   WBC
   8.4
   8.9
   9.3
   10.0
   11.7
   Hct
   32.6
   36.4
   37.2
   38.5
   37.9
   Plt
   261
   285
   301
   319
   334
   Cr
   0.5
   0.4
   0.5
   0.5
   0.5
   TCO2
   47
   48
   46
   44
   50
   Glucose
   92
   113
   136
   100
   95
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Ca++:9.3
   mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   A 53 year-old man with complicated pulmonary history including COPD,
   tracheomalacia s/p tracheal stent (removed) and tracheostomy,
   diaphragmatic paralysis and chronic RLL collapse presenting with 3 days
   of worsening respiratory distress.
   # Respiratory distress: treating for presumed bronchitis with COPD
   flare.  Has volume overload but not thought to be significantly
   affecting resp function at this time. This is more likely mucous
   plugging with collapse in the setting of bronchitis and COPD; improving
   with steroids/bronchodilators and empiric abx.  Recent tightness is
   likely persistent COPD flare.
   -continue broad antibiotics given his h/o MRSA and MDR pseudomonas in
   sputum, meropenem and vancomycin (d1 = [**5-7**])
   -will switch prednisone back to IV Solumedrol today, 10 mg tid
   -standing and prn nebs
   -aggressive incenitve spirometry
   -continue trach mask
   # Back pain: chronic, d/t compression fractures compounded by
   sedentary/bed-ridden status
   -encourage OOB to chair
   -continue morphine IR and Oxycodone prn; avoid escalating dose as
   respiratory status worsens with increased sedation
   -avoiding intravenous narcotics as patient is currently tolerating pos
   # Restless legs: reviewed rehab notes and patient was on Mirapex before
   this admission; restarted with subj improvement
   -will continue Mirapex 0.25 qhs
   # Hypernatremia: now resolved.  likely secondary to poor po intake in
   setting of insensible losses from respiration/infection.
   -encourage free water intake as needed.
   # LE erythema and edema: both appear to be chronic. On exam erythema is
   not warm, tender or blanching.  TTE showed normal EF with moderate
   pulmonary artery hypertension.
   -leg elevation.
   -do not feel this is cellulitis based on exam, however is on vanc for
   PNA so should cover regardless
   -continue outpatient Lasix
   # Diabetes mellitus
   -continue diabetic diet, HISS
   # Osteoporosis:
   -calcium, vitamin D
   -pt refusing fosamax [**2-11**] h/o esophagitis. Could consider outpatient tx
   with other meds not available on our formulary.  Pamidronate not
   clinically indicated.
   # FEN/Lytes: Cardiac, diabetic diet, replete lytes prn, bolus prn for
   hypotension, low UOP
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Currently being screened for placement, PT consult today

2126-05-14 12:06:00 Physician Attending Progress Note
Chief Complaint: respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued moderate dyspnea
   Trach mask for 24 hours
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Meropenem - [**2126-5-14**] 12:07 AM
   Vancomycin - [**2126-5-14**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-5-13**] 08:30 PM
   Omeprazole (Prilosec) - [**2126-5-14**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2126-5-14**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 110 (72 - 110) bpm
   BP: 115/54(70) {93/54(44) - 123/76(86)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,740 mL
                                                                    690 mL
   PO:
                                                                  1,040 mL
                                                                    390 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,410 mL
                                                                  1,075 mL
   Urine:
                                                                  2,410 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -670 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: 7.42/74/77/45/18
   PaO2 / FiO2: 193
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   334 K/uL
   95 mg/dL
   0.5 mg/dL
   45 mEq/L
   3.9 mEq/L
   12 mg/dL
   93 mEq/L
   142 mEq/L
   37.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2126-5-9**]  10:30 PM
                             [**2126-5-10**]  01:31 AM
                             [**2126-5-10**]  02:21 AM
                             [**2126-5-10**]  03:38 AM
                             [**2126-5-10**]  10:20 PM
                             [**2126-5-11**]  04:01 AM
                             [**2126-5-12**]  04:03 AM
                             [**2126-5-13**]  04:17 AM
                             [**2126-5-13**]  02:02 PM
                             [**2126-5-14**]  04:03 AM
   WBC
   8.4
   8.9
   9.3
   10.0
   11.7
   Hct
   32.6
   36.4
   37.2
   38.5
   37.9
   Plt
   261
   285
   301
   319
   334
   Cr
   0.5
   0.4
   0.5
   0.5
   0.5
   TCO2
   47
   48
   46
   44
   50
   Glucose
   92
   113
   136
   100
   95
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Ca++:9.3
   mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: None new
   Assessment and Plan
   53 yo male with severe COPD and now admit with progressive respiratory
   distress and requiring intetmittent nocuturnal ventilation.  He has
   been maintained off ventilator for past 24 hours.
   1)Respiratory Failure-Will Rx underlying issues
   COPD Flare-return to IV solumedrol
   Pneumonia-Vanco/Meropenem to continue
   PT
will need PT to be up and ambulate with patient as tolerated to
   evaluate capacity for tolerance of increased work and RR
   2)Back Pain
Secondary to compression Fx
   -Will continue to support with Percocet po
   -MSO4 PRN
 DIABETES MELLITUS (DM), TYPE II
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    impaired gas exchange
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
To pulmonary Rehab
   Total time spent: 40

2126-05-15 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pain control- increased frequency of percocet; stopped morphine
   -?increased dyspnea- changed prednisone back to methylprednisolone
   -cont meropenem/vancomycin
   -PT c/s- pending
   Patient overall feeling better, reports not yet at his baseline.
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-14**] 08:00 PM
   Meropenem - [**2126-5-15**] 12:27 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2126-5-14**] 08:26 AM
   Famotidine (Pepcid) - [**2126-5-14**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-15**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 76 (66 - 110) bpm
   BP: 107/67(76) {95/54(66) - 119/80(87)} mmHg
   RR: 18 (17 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,810 mL
                                                                    100 mL
   PO:
                                                                  1,110 mL
             TF:
   IVF:
                                                                    700 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    150 mL
   Urine:
                                                                  1,925 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 92%
   ABG: ///43/
   Physical Examination
   General: awake, alert and oriented. No acute distress. Speaking
   comfortably. Able to sit up for physical exam without significant
   discomfort.
   Pulmonary: decreased Wheezes, prolonged expiratory phase.
   Cardiac: RRR, normal S1/S2
   Abdomen: soft and non-tender
   Extremities: trace pitting edema bilaterally with dependent rubor lower
   extremities (mid shins to ankles) that is unchanged
   Back: severe kyphosis
   Labs / Radiology
   329 K/uL
   11.6 g/dL
   146 mg/dL
   0.5 mg/dL
   43 mEq/L
   4.6 mEq/L
   13 mg/dL
   94 mEq/L
   142 mEq/L
   38.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2126-5-10**]  01:31 AM
                             [**2126-5-10**]  02:21 AM
                             [**2126-5-10**]  03:38 AM
                             [**2126-5-10**]  10:20 PM
                             [**2126-5-11**]  04:01 AM
                             [**2126-5-12**]  04:03 AM
                             [**2126-5-13**]  04:17 AM
                             [**2126-5-13**]  02:02 PM
                             [**2126-5-14**]  04:03 AM
                             [**2126-5-15**]  04:41 AM
   WBC
   8.4
   8.9
   9.3
   10.0
   11.7
   11.3
   Hct
   32.6
   36.4
   37.2
   38.5
   37.9
   38.3
   Plt
   261
   285
   301
   [**Telephone/Fax (3) 8973**]
   Cr
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   48
   46
   44
   50
   Glucose
   92
   113
   136
   100
   95
   146
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A 53 year-old man with complicated pulmonary history including COPD,
   tracheomalacia s/p tracheal stent (removed) and tracheostomy,
   diaphragmatic paralysis and chronic RLL collapse presenting with 3 days
   of worsening respiratory distress.
   # Respiratory distress: treating for presumed bronchitis with COPD
   flare.  Has volume overload but not thought to be significantly
   affecting resp function at this time. This is more likely mucous
   plugging with collapse in the setting of bronchitis and COPD; improving
   with steroids/bronchodilators and empiric abx.  Recent tightness is
   likely persistent COPD flare.
   -continue broad antibiotics given his h/o MRSA and MDR pseudomonas in
   sputum, meropenem and vancomycin (d1 = [**5-7**])
   -will Currently on Solumedrol.  Will attempt to change back to
   prednisone.
   -standing and prn nebs
   -aggressive incenitve spirometry
   -continue trach mask
   # Back pain: chronic, d/t compression fractures compounded by
   sedentary/bed-ridden status
   -encourage OOB to chair
   -continue morphine IR and Oxycodone prn; avoid escalating dose as
   respiratory status worsens with increased sedation
   -avoiding intravenous narcotics as patient is currently tolerating pos
   # Restless legs: reviewed rehab notes and patient was on Mirapex before
   this admission; restarted with subj improvement
   -will continue Mirapex 0.25 qhs
   # Hypernatremia: now resolved.  likely secondary to poor po intake in
   setting of insensible losses from respiration/infection.
   -encourage free water intake as needed.
   # LE erythema and edema: both appear to be chronic. On exam erythema is
   not warm, tender or blanching.  TTE showed normal EF with moderate
   pulmonary artery hypertension.
   -leg elevation.
   -do not feel this is cellulitis based on exam, however is on vanc for
   PNA so should cover regardless
   -continue outpatient Lasix
   # Diabetes mellitus
   -continue diabetic diet, HISS
   # Osteoporosis:
   -calcium, vitamin D
   -pt refusing fosamax [**2-11**] h/o esophagitis. Could consider outpatient tx
   with other meds not available on our formulary.  Pamidronate not
   clinically indicated.
   # FEN/Lytes: Cardiac, diabetic diet, replete lytes prn,
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: screening for rehab.

2126-05-15 11:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Percocet dosing interval adjusted
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Codeine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Penicillins
   Rash; itchiness
   Metformin
   Nausea/Vomiting
   Heparin Agents
   Unknown;
   Ativan (Oral) (Lorazepam)
   tachycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2126-5-14**] 08:00 PM
   Meropenem - [**2126-5-15**] 12:27 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-5-14**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-5-15**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 97 (66 - 110) bpm
   BP: 95/57(66) {95/57(66) - 119/80(87)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,810 mL
                                                                    460 mL
   PO:
                                                                  1,110 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    700 mL
   Urine:
                                                                  1,925 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///43/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   329 K/uL
   146 mg/dL
   0.5 mg/dL
   43 mEq/L
   4.6 mEq/L
   13 mg/dL
   94 mEq/L
   142 mEq/L
   38.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2126-5-10**]  01:31 AM
                             [**2126-5-10**]  02:21 AM
                             [**2126-5-10**]  03:38 AM
                             [**2126-5-10**]  10:20 PM
                             [**2126-5-11**]  04:01 AM
                             [**2126-5-12**]  04:03 AM
                             [**2126-5-13**]  04:17 AM
                             [**2126-5-13**]  02:02 PM
                             [**2126-5-14**]  04:03 AM
                             [**2126-5-15**]  04:41 AM
   WBC
   8.4
   8.9
   9.3
   10.0
   11.7
   11.3
   Hct
   32.6
   36.4
   37.2
   38.5
   37.9
   38.3
   Plt
   261
   285
   301
   [**Telephone/Fax (3) 8973**]
   Cr
   0.5
   0.4
   0.5
   0.5
   0.5
   0.5
   TCO2
   48
   46
   44
   50
   Glucose
   92
   113
   136
   100
   95
   146
   Other labs: PT / PTT / INR:11.7/26.9/1.0, CK / CKMB /
   Troponin-T:283/20/0.01, Differential-Neuts:71.0 %, Band:0.0 %,
   Lymph:15.0 %, Mono:14.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   53 yo with severe COPD and now with slow improvement in hypercarbic
   respiratory failure with systemic steroids and intermittent ventilatory
   suppport.  He has had ongoing titration of pain medications with
   delecated balance of adequate pain control and over sedation/resp
   supression.
   1)Respiratory Failure-
   -Bonchitis treatment to be completed
look for 8 day course and
   completed today
   -Continue with Lasix 20mg [**Hospital1 **]
   -Continue with IV steroids and look to wean to po prednisone
   -Pain control to be q 4 hours with oxycodone 10/Acetaminophen 325mg
   -Continue with cuffed trach for now and PMV to continue
 DIABETES MELLITUS (DM), TYPE II
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    impaired gas exchange
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2126-5-8**] 03:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes